US05661139
To 2-hydrazinopyridine (4.36 g, 40 mmol) was added slowly methyl glyoxal (40% aqueous, 3.99 g, 22 mmol) in ethyl alcohol (88 mL). The solution was refluxed for 17 hours and cooled to room temperature, The yellow product which separated was filtered, washed with ethyl alcohol and dried to give methyl glyoxal bis-(2-pyridyl) hydrazone 3.00 g (29%), mp. 196°-198° C. as the free base. The entire product was added to water and hydrogen chloride gas was bubbled through the solution until the solution was clear. The water was evaporated to give the hydrochloride salt, mp. 270°-270° C.

reactant | 2-hydrazinopyridine | 40 mmol, 4.36 g | N(N)C1=NC=CC=C1 | C5H7N3
reactant | methyl glyoxal | 22 mmol, 3.99 g | CC(=O)C=O | C3H4O2
solvent | ethyl alcohol | 88 mL | C(C)O | C2H6O
product | methyl glyoxal bis-(2-pyridyl) hydrazone | 3.00 g, 29% | N1=C(C=CC=C1)N(N=C(C=O)C)C1=NC=CC=C1 | C13H12N4O
